US04251546
Bis(5-chloro-2-hydroxyphenyl)ketone (m.p. 154° C.; reference m.p. 152°-155° C.) was prepared by the demethylation of bis(5-chloro-2-methoxyphenyl)ketone following the method described by Moshfegh et al (Acta Chem Scand, 1957, 40, 1157-66) for the de-ethylation of bis(5-chloro-2-ethoxyphenyl)ketone.

reactant | bis(5-chloro-2-methoxyphenyl)ketone | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC(=C1)Cl)OC)OC | C15H12Cl2O3
reactant | bis(5-chloro-2-ethoxyphenyl)ketone | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC(=C1)Cl)OCC)OCC | C17H16Cl2O3
product | Bis(5-chloro-2-hydroxyphenyl)ketone | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC(=C1)Cl)O)O | C13H8Cl2O3
